US08193204B2
6.9. Preparation of (S)-Ethyl 2-amino-3-(4-(2-amino-6-((R)-1-(4-chloro-2-(3-methyl-1H-pyrazol-1-yl)phenyl)-2,2,2-trifluoroethoxy)pyrimidin-4-yl)phenyl)propanoate Hippurate
The 2×IPAc solution of (S)-Ethyl 2-amino-3-(4-(2-amino-6-((R)-1-(4-chloro-2-(3-methyl-1H-pyrazol-1-yl)phenyl)-2,2,2-trifluoroethoxy)pyrimidin-4-yl)phenyl)propanoate was added to a thin slurry of hippuric acid (6.49 g, 36 mol, 1.0 equiv.) in IPAc (208 mL, 10×) and EtOH (42 mL, 2×) at 60° C. The clear yellow solution was then cooled to 50° C., at which time seeding was added and stirred for 1 h at the same temperature. The suspension was then slowly cooled to room temperature and stirred for 14 h at room temperature. The solids were filtered, washed with ice-cold IPAc (0-5° C., 42 mL, 2×) and dried under vacuum at 50° C. overnight to afford a white solid (19.0 g, 69% yield). M.p.: 145° C. (DSC onset temperature)

reactant | (S)-Ethyl 2-amino-3-(4-(2-amino-6-((R)-1-(4-chloro-2-(3-methyl-1H-pyrazol-1-yl)phenyl)-2,2,2-trifluoroethoxy)pyrimidin-4-yl)phenyl)propanoate | N[C@H](C(=O)OCC)CC1=CC=C(C=C1)C1=NC(=NC(=C1)O[C@@H](C(F)(F)F)C1=C(C=C(C=C1)Cl)N1N=C(C=C1)C)N | C27H26ClF3N6O3
reactant | hippuric acid | 36 mol, 6.49 g, 1.0 equiv. | C(CNC(=O)C1=CC=CC=C1)(=O)O | C9H9NO3
solvent | EtOH | 42 mL | CCO | C2H6O
product | (S)-Ethyl 2-amino-3-(4-(2-amino-6-((R)-1-(4-chloro-2-(3-methyl-1H-pyrazol-1-yl)phenyl)-2,2,2-trifluoroethoxy)pyrimidin-4-yl)phenyl)propanoate Hippurate | 19.0 g, 69% yield | C(CNC(=O)C1=CC=CC=C1)(=O)O.N[C@H](C(=O)OCC)CC1=CC=C(C=C1)C1=NC(=NC(=C1)O[C@@H](C(F)(F)F)C1=C(C=C(C=C1)Cl)N1N=C(C=C1)C)N | InChI=1S/C27H26ClF3N6O3.C9H9NO3/c1-3-39-25(38)20(32)12-16-4-6-17(7-5-16)21-14-23(35-26(33)34-21)40-24(27(29,30)31)19-9-8-18(28)13-22(19)37-11-10-15(2)36-37;11-8(12)6-10-9(13)7-4-2-1-3-5-7/h4-11,13-14,20,24H,3,12,32H2,1-2H3,(H2,33,34,35);1-5H,6H2,(H,10,13)(H,11,12)/t20-,24+;/m0./s1
